US09079853B2
5-chloro-3-hydroxy-1-isobutyl-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one
This compound was made in a similar manner to 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one using 5-chloro-1-isobutylindoline-2,3-dione and commercially available 2-acetyl pyridine (purchased from Fisher Scientific). 1H-NMR δ 8.71 (ddd, 1H), 8.13 (dd, 1H), 7.93 (dd, 1H), 7.56 (ddd, 1H), 7.31 (d, 1H), 7.28-7.26 (m, 2H), 6.78 (d, 1H), 3.74 (dd, 1H), 3.56-3.40 (m, 3H), 2.13 (m, 1H), 0.96 (d, 6H). calculated mass for C19H19ClN2O3, 358.11, observed, 359.1 (M+1).

reactant | 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one | C(CCC)N1C(C(C2=CC=CC=C12)(CC(C1=NC=CC=C1)=O)O)=O | C19H20N2O3
reactant | 5-chloro-1-isobutylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CC(C)C)=O)=O | C12H12ClNO2
reactant | 2-acetyl pyridine | C(C)(=O)C1=NC=CC=C1 | C7H7NO
product | 5-chloro-3-hydroxy-1-isobutyl-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one | ClC=1C=C2C(C(N(C2=CC1)CC(C)C)=O)(CC(C1=NC=CC=C1)=O)O | C19H19ClN2O3
